US08283413B2
Synthesis of 2-(benzyloxycarbonylmethyl)acrylic acid
To a solution of itaconic anhydride (33.6 g, 0.3 mol) in 100 ml of toluene is added benzyl alcohol (32.4 g, 0.3 mol). The resulting solution is heated to reflux for 3 hours. After cooling down to room temperature, hexanes (100 mL) are added to the above mixture and are continued to stir for 8 hours. A white solid is collected by filtration and washed with hexanes and dried in vacuum, giving rise to 55 g (83% yield) of the desired product: 2-(benzyloxycarbonylmethyl)acrylic acid monomer.

reactant | itaconic anhydride | 0.3 mol, 33.6 g | C1(C(=C)CC(=O)O1)=O | C5H4O3
reactant | benzyl alcohol | 0.3 mol, 32.4 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(benzyloxycarbonylmethyl)acrylic acid | 55 g, 83% yield | C(C1=CC=CC=C1)OC(=O)CC(C(=O)O)=C | C12H12O4
